US04504616
Forty (40) g of neodymium oxide, 220 g of octanoic acid and 220 g of water were mixed. The resultant mixture in the form of suspension was stireed as refluxed at 85° C. for three hours and cooled. The resultant reaction mixture was left standing at rest and separated into a water phase and an organic phase. The organic phase was poured into acetone of a volume about 20 times as large. The salt consequently precipitated therein was washed with acetone and was dried under a vacuum, to afford neodymium octanoate monohydrate. The yield was 92%.

reactant | neodymium oxide | [O-2].[Nd+3].[O-2].[O-2].[Nd+3]
reactant | octanoic acid | 220 g | C(CCCCCCC)(=O)O | C8H16O2
solvent | water | 220 g | O | H2O
product | neodymium octanoate monohydrate | yield was 92% | O.C(CCCCCCC)(=O)[O-].[Nd+3].C(CCCCCCC)(=O)[O-].C(CCCCCCC)(=O)[O-] | InChI=1S/3C8H16O2.Nd.H2O/c3*1-2-3-4-5-6-7-8(9)10;;/h3*2-7H2,1H3,(H,9,10);;1H2/q;;;+3;/p-3
